US03965143
A mixture containing 3 parts of 5,5-dimethyl-1-octyn-4(RS)-ol, 3.3 parts of triethylsilyl chloride, 3.4 parts of imidazole and 5 parts by volume of dimethylformamide is stirred at room temperature for about 1 hour, then is partitioned between water and ether. The ether solution is separated, washed several times with water, dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure to afford 5,5-dimethyl-1-octyn-4(RS)-ol triethylsilyl ether.

reactant | 5,5-dimethyl-1-octyn-4(RS)-ol | CC(C(CC#C)O)(CCC)C | C10H18O
reactant | triethylsilyl chloride | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,5-dimethyl-1-octyn-4(RS)-ol triethylsilyl ether | C(C)[Si](CC)(CC)OC(CC#C)C(CCC)(C)C | C16H32OSi
